US07816349B2
Trifluoro-methanesulfonic acid 3,5-dichloro-4-[(R)-2-oxo-trans-1-(4-triisopropylsilanyloxy-cyclohexyl)-pyrrolidin-3-ylmethyl]-phenyl ester
Dissolve (R)-3-(2,6-Dichloro-4-hydroxy-benzyl)-trans-1-(4-triisopropylsilanyloxy-cyclohexyl)pyrrolidin-2-one (Preparation 18) (1.42 g, 2.78 mmol) in 10 ml of dry pyridine at 0° C. Add trifluoromethanesulfonic anhydride (0.71 ml, 4.17 mmol) dropwise. Stir at room temperature for 2 hours. Quench with 1N HCl and extract with ethyl acetate. Wash the extract with 1N HCl, NaHCO3 and brine. Dry over magnesium sulfate, filter, and concentrate. After flash column chromatography receive 1.70 g (96%) of the title compound: Mass spectrum (apci) m/z=646 (M+H).

reactant | (R)-3-(2,6-Dichloro-4-hydroxy-benzyl)-trans-1-(4-triisopropylsilanyloxy-cyclohexyl)pyrrolidin-2-one | 2.78 mmol, 1.42 g | ClC1=C(C[C@H]2C(N(CC2)[C@@H]2CC[C@H](CC2)O[Si](C(C)C)(C(C)C)C(C)C)=O)C(=CC(=C1)O)Cl | C26H41Cl2NO3Si
reactant | trifluoromethanesulfonic anhydride | 4.17 mmol, 0.71 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | Trifluoro-methanesulfonic acid 3,5-dichloro-4-[(R)-2-oxo-trans-1-(4-triisopropylsilanyloxy-cyclohexyl)-pyrrolidin-3-ylmethyl]-phenyl ester | ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)[C@@H]1CC[C@H](CC1)O[Si](C(C)C)(C(C)C)C(C)C)=O)Cl)OS(=O)(=O)C(F)(F)F | C27H40Cl2F3NO5SSi
